US06506739B1
A 12-L, three-neck, round-bottom flask was equipped with an overhead mechanical stirrer, a thermometer and a nitrogen inlet/outlet bubbler. The flask was charged with N,N,N′,N′-tetrakis(2-chloroethyl)phosphorodiamidic chloride (979 g, 2.68 moles), 2, ethylene glycol (1.5 L, 26.8 moles), 4 and tetrahydrofuran (3 L). The stirrer was set to agitate at a moderate rate (to provide a clear red solution) and the mixture was cooled to 0° C. using an ice/water bath. To this cooled solution was added potassium tert-butoxide (362 g, 3.22 moles) over 20 minutes. The reaction mixture was then slowly warmed to room temperature and stirred for a total of 19 hours. A solution of hydrogen chloride in water (8 L, 1M) was introduced into the flask over 10 minutes. The organic fraction was collected and the aqueous fraction was extracted with ethyl acetate (2×4 L). The combined organic fractions were washed with saturated aqueous sodium chloride solution (1×4 L) and the solvents were removed under reduced pressure (30 mm Hg vacuum, final bath temperature at 50° C.) on a rotary evaporator to provide a dark reddish brown oil. This crude organic product was then dissolved with warm (40° C.) methyl tert-butyl ether (2 L) and allowed to cool to room temperature, stirring for a total of 14 hours. The resulting slurry was stirred for 30 minutes at 0° C. after which the precipitate was collected by vacuum filtration and washed with cold methyl tert-butyl ether (1 L). The combined filtrates were concentrated under reduced pressure (30 mmHg vacuum, final bath temperature at 50° C.) on a rotary evaporator to a volume of 500 mL and stirred for 30 minutes at 0° C. The resulting precipitate was collected by vacuum filtration and washed with cold methyl tert-butyl ether (200 mL). Two crops of solid product were then combined and dried overnight (30 mm Hg, 40° C.) to produce 2-hydroxyethyl-N,N,N′,N′-tetrakis(2-chloroethyl)phosphorodiamidate, 3, as a tan powder (526 gm, 50% yield). TLC analysis showed one spot (Rf0.62; methanol:chloroform 1:9). Melting point: 76-78° C.; IR (KBr) 3372, 2957, 1459, 1344, 1206, 1098, 1053, 929 cm−1; MS (CI, methane) m/z 391(MH+), 353, 339, 248, 106. A thermal analysis (DSC) showed two exothermic decomposition ranges of 164-179 and 222-231 C.

reactant | N,N,N′,N′-tetrakis(2-chloroethyl)phosphorodiamidic chloride | 2.68 moles, 979 g | ClCCN(P(=O)(N(CCCl)CCCl)Cl)CCCl | C8H16Cl5N2OP
reactant | ethylene glycol | 26.8 moles, 1.5 L | C(CO)O | C2H6O2
reactant | potassium tert-butoxide | 3.22 moles, 362 g | CC(C)([O-])C.[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | water | 1M, 8 L | O | H2O
solvent | methyl tert-butyl ether | 2 L | C(C)(C)(C)OC | C5H12O
solvent | tetrahydrofuran | 3 L | O1CCCC1 | C4H8O
product | 2-hydroxyethyl-N,N,N′,N′-tetrakis(2-chloroethyl)phosphorodiamidate | OCCOP(=O)(N(CCCl)CCCl)N(CCCl)CCCl | C10H21Cl4N2O3P
